US04165365
A solution of 1.2 g. (0.005 mol) of N-(2-carboxy-2-oxoacetyl)-3-nitroaniline in 60 ml. of methanol was hydrogenated over 200 mg. of 10% palladium-on-carbon at 50 psi. When the theoretical amount of hydrogen had been absorbed the reduction was stopped, 40 ml. of 5% aqueous sodium bicarbonate solution was added and the catalyst filtered. The filtrate was evaporated to approximately 50 ml., acidified with 3N hydrochloric acid to pH 2 and the resulting precipitate filtered, washed with water and dried to give N-(2-carboxy-2-oxoacetyl)-1,3-phenylene diamine, m.p. 246° C.

reactant | N-(2-carboxy-2-oxoacetyl)-3-nitroaniline | 0.005 mol | C(=O)(O)C(C(=O)NC1=CC(=CC=C1)[N+](=O)[O-])=O | C9H6N2O6
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | N-(2-carboxy-2-oxoacetyl)-1,3-phenylene diamine | C(=O)(O)C(C(=O)NC1=CC(=CC=C1)N)=O | C9H8N2O4
